Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Lightheadedness
Chest/neck discomfort
 
Major Surgical or Invasive Procedure:
Electrophysiology diagnostic study without ablation

 
History of Present Illness:
___ YO M w/ PMH HTN, anxiety presented to the ___
with 3 episodes of lightheadedness and throat/upper chest
tightness today. Patient first had episode like this about 6
weeks ago about 40 minutes into a walk with his wife. This went
away after a few minutes of rest. This morning, he again was on 
a
walk and noted a sensation of LH accompanied by throat/upper
chest tightness. This episode lasted "maybe 5 minutes." He then
had second and third episodes like this which occurred during
position changes at which point he decided to go in to the ___ for further evaluation.
 
Past Medical History:
HTN
Multiple ortho procedures on shoulder, hip, knee
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION EXAM:
VS: 97.7 123/79 70 18 94% RA 
GENERAL: Pleasant elderly gentleman in NAD
HEENT: NCAT, MMM
NECK: Supple. Neck veins flat sitting upright
CARDIAC: RRR, no m/r/g
LUNGS: CTAB
ABDOMEN: Soft, NT/ND, BS+
EXTREMITIES: WWP, no c/c/e
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

DISCHARGE EXAM:
Vital signs stable
GENERAL: NAD. AAOx3. Comfortable.
HEENT: NCAT, moist mucous membranes
CARDIAC: RRR, faint S1, no murmurs
LUNGS: CTAB
ABDOMEN: Soft, NT/ND
EXTREMITIES: Warm, well perfused, non-edematous
 
Pertinent Results:
PERTINENT STUDIES:

___ EP DIAGNOSTIC STUDY:
Conclusions:
- Idiopathic VT, likely mid-myocardial to epicardial. - 
Non-sustained atrial arrhythmias (AF/atypical AFL)

___ CARDIAC MRI
Please note that this report only pertains to extracardiac 
findings.
Severe left hydronephrosis with left cortical thinning 
suggestive of chronic
obstruction (101:14).  Crossing of the dorsal pancreatic duct 
with the common
bile duct consistent with pancreatic divisum spectrum (701: 
51-60). Bilateral
T2 hyperintense renal cystic lesions noted. 1.3 x 1.7 cm and 1.5 
x 1.3 cm
mildly T2 hyperintense lesions within the mid thoracic vertebral 
bodies are
most consistent with hemangiomas.  There are no additional 
extracardiac
findings.
The entirety of this Cardiac MRI is reported separately in the 
Electronic
Medical Record (OMR) - Cardiovascular Reports.

___ EXERCISE TOLERANCE TEST
IMPRESSION: No anginal, presyncopal symptoms, or ischemic ECG 
changes
to achieved workload. Frequent isolated VPBs (multiple 
morphologies) and
three ventricular couplets without any sustained ventricular
tachycardia.

___ ECHOCARDIOGRAM
MPRESSION: Mildly depressed left ventricular systolic function. 
Unable to adequately assess for regional dysfunction in the 
setting of suboptimal image quality. Moderately dilated aortic 
root. Mildly dilated ascending aorta, aortic arch, and abdominal 
aorta. No clinically significant valvular disease. Normal 
pulmonary artery systolic pressure.

The patient has a moderately dilated ascending aorta. Based on 
___ ACCF/AHA Thoracic Aortic Guidelines, if not previously 
known or a change, a follow-up echocardiogram is suggested in 6 
months; if previously known and stable, a follow-up 
echocardiogram is suggested in ___ year. 

ADMISSION LABS:
___ 06:00PM BLOOD WBC-7.1 RBC-4.66 Hgb-15.2 Hct-43.7 MCV-94 
MCH-32.6* MCHC-34.8 RDW-11.9 RDWSD-41.0 Plt ___
___ 06:00PM BLOOD Neuts-60.1 ___ Monos-10.6 Eos-1.5 
Baso-0.8 Im ___ AbsNeut-4.26 AbsLymp-1.89 AbsMono-0.75 
AbsEos-0.11 AbsBaso-0.06
___ 06:00PM BLOOD ___ PTT-26.1 ___
___ 06:00PM BLOOD Glucose-90 UreaN-16 Creat-0.9 Na-142 
K-3.3 Cl-106 HCO3-24 AnGap-12
___ 06:00PM BLOOD CK(CPK)-43*
___ 06:00PM BLOOD CK-MB-2
___ 06:00PM BLOOD cTropnT-<0.01
___ 06:00PM BLOOD Calcium-9.0 Phos-2.7 Mg-1.6
___ 06:00PM BLOOD TSH-1.5

PERTINENT LABS:
___ 06:00PM BLOOD cTropnT-<0.01
___ 06:00PM BLOOD CK-MB-2
___ 06:00PM BLOOD TSH-1.5

DISCHARGE LABS:
___ 07:15AM BLOOD WBC-7.8 RBC-4.88 Hgb-15.9 Hct-47.1 MCV-97 
MCH-32.6* MCHC-33.8 RDW-12.0 RDWSD-42.5 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-98 UreaN-20 Creat-1.0 Na-145 
K-4.3 Cl-104 HCO3-29 AnGap-12
___ 07:15AM BLOOD Calcium-10.3 Phos-3.0 Mg-1.7

MICRO:
(none)
 
Brief Hospital Course:
___ male with history of HTN and anxiety initially 
presenting
with lightheadedness with chest/neck discomfort found to have
___ second run v-tach on telemetry at OSH. Underwent cardiac 
workup including CMR and EP study (without ablation) found to 
have structurally normal heart though with inducible v-tach of 
unclear etiology.

# Non-sustained ventricular tachycardia: Symptoms of dizziness 
and chest/neck tightness seem to be correlated with onset of ___ 
run v-tach at outside hospital. Underwent exercise stress test 
that showed isolated ventricular premature beats and ventricular 
couplets, though no ventricular tachycardia. TTE/Cardiac MRI 
notable for EF 50% but CMR showed no significant structural 
abnormalities to explain arrhythmia. Diagnostic EP study found 
idiopathic VT, likely mid-myocardial to epicardial and 
non-sustained atrial arrhythmias (AF/atypical AFL). No 
indication for ablation. Started on metoprolol succinate 25 mg 
daily. Zio patch placed for continuous monitoring follow 
discharge. Continuous telemetry during admission was notable for 
frequent PVCs though no further runs of v-tach; he remained 
stable throughout admission. Plan to follow up with EP following 
discharge (Dr. ___.

#Hypertension: Stable. Continuing home lisinopril/HCTZ.

#Anxiety: Stable. On home lorazepam.

TRANSITIONAL ISSUES:
[] Started metoprolol succinate 25 mg daily.
[] Event monitor (Zio patch) placed on discharge.
[] Incidental finding on cardiac MRI: Severe left hydronephrosis 
with left cortical thinning suggestive of chronic obstruction. 
Consider CT urogram for further assessment of left kidney.
[] Incidental finding on TTE: Moderately dilated ascending 
aorta. If not previously known or a change, a follow-up 
echocardiogram is suggested in 6 months; if previously known and 
stable, a follow-up echocardiogram is suggested in ___ year. 

#CODE STATUS: full (confirmed)
#CONTACT: Health care proxy chosen: Yes
Name of health care proxy: ___
Relationship: wife
Phone number: ___
___ on date: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
2. Aspirin 81 mg PO DAILY 
3. LORazepam 0.5 mg PO Q8H:PRN Anxiety 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*60 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
4.  LORazepam 0.5 mg PO Q8H:PRN Anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Idiopathic non-sustained ventricular tachycardia

SECONDARY DIAGNOSES:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you.

Why were you in the hospital?
 - You were having symptoms of an abnormal heart rhythm called 
ventricular tachycardia

What was done for you in the hospital?
 - You had multiple studies performed including an 
echocardiogram, a cardiac MRI, and a stress test.
 - You had an electrophysiology study to determine the cause of 
your arrhythmia.
 - You were started on a new medication to help prevent future 
episodes.
 - We placed a patch that will monitor and record any 
abnormalities in your heart beats and rhythm to obtain more 
information that will help us with your management.

What should you do when you get home?
 - Continue wearing the Zio monitoring patch per the 
instructions received. Be sure to mail it back as instructed.
 - Continue to monitor for symptoms and call your doctor or 
return to the ER if concerned.
 - Take your medications as prescribed below.

We wish you all the best.

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___